US08426420B2
(ii) 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 4.000 g 4-((S)-4-tert-Butoxycarbonyl-2-{[1-(3,4-difluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester in 26 ml DMF were added 1.172 ml benzyl bromoacetate and 4.607 g cesium carbonate. After stirring at RT for 12 h the solution was diluted with 100 ml ethyl acetate and extracted with aqueous LiCl (4% w/w) and aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used in the subsequent reaction.

reactant | 4-((S)-4-tert-Butoxycarbonyl-2-{[1-(3,4-difluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 4.000 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O)C1=CC(=C(C=C1)F)F)=O | C26H33F2N5O7
reactant | benzyl bromoacetate | 1.172 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 4.607 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC(=C(C=C1)F)F)=O | C35H41F2N5O9
